US08030499B2
Step 172-1: Synthesis of 2,4,5-trimethoxy benzene sulfonyl chloride
To a solution of 10.0 g of 1,3,4-trimethoxy benzene in CHCl3 (100 ml) was added dropwise 6.90 g of chlorosulfonic acid over 10 minutes under ice cooling. After stirring at room temperature for two hours, the solution was poured into ice water and the resulting mixture was extracted with CHCl3. The aqueous layer was filtered with celite, the filtrate was neutralized with an aqueous solution of 2 mol/L KOH (pH=9), and the solvent was evaporated under reduced pressure to obtain 7.81 g. Phosphorus oxychloride (30 ml) was added to the obtained residue and the reaction mixture was stirred at an external temperature of 100° C. for one hour. The solution was poured into ice water and the resulting mixture was extracted with Et2O; the organic layer was washed with water and with saturated brine and then dried over MgSO4; the drying agent was separated by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60N; mobile phase: EtOAc/n-hexane=1/10 to 1/2; v/v) to obtain 1.80 g of the title compound.

reactant | 1,3,4-trimethoxy benzene | 10.0 g | COC1=CC(=C(C=C1)OC)OC | C9H12O3
reactant | chlorosulfonic acid | 6.90 g | ClS(=O)(=O)O | ClHO3S
reactant | Phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4,5-trimethoxy benzene sulfonyl chloride | 1.80 g | COC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)Cl | C9H11ClO5S
